US04851526
3,4,5-Trimethoxybenzeneacetyl chloride
In a manner similar to Preparation 15, react 3,4,5-trimethoxybenzeneacetic acid with thionyl chloride to obtain the title compound.

reactant | 3,4,5-trimethoxybenzeneacetic acid | COC=1C=C(C=C(C1OC)OC)CC(=O)O | C11H14O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3,4,5-Trimethoxybenzeneacetyl chloride | COC=1C=C(C=C(C1OC)OC)CC(=O)Cl | C11H13ClO4
